US04574128
(c) 6,7-Dichloro-5-(4-chloro-3-dimethylaminomethyleneaminosulfonylbenzoyl)-2,3-dihydro-2-hydroxymethylbenzofuran
14.7 g (31 mmol) of 5-allyl-4-hydroxy-3'-dimethylaminomethyleneaminosulfonyl-2,3,4'-trichlorobenzophenone are suspended, with exclusion of moisture, in 60 ml of methylene chloride and, while cooling in an icebath, a solution of 7.4 g (43 mmol) of 90% pure metachloroperbenzoic acid in 60 ml of methylene chloride is added dropwise. The mixture is stirred for about one hour in the icebath and then briefly heated to 35° to 40° C., whereupon a clear solution is obtained. After allowing to stand at room temperature overnight, a further 0.7 g of metachloroperbenzoic acid is added, the mixture is stirred at room temperature for 4 hours and then again heated to 35° C. The precipitate is filtered off, washed twice with 10 ml of methylene chloride each time, and then washed several times with aqueous sodium bicarbonate solution until the reaction is alkaline. The organic phase is dried over sodium sulfate, the solvent is distilled off, and the amorphous product is purified by chromatography on silica gel using toluene/ethyl acetate (3:1 to 1:3). After distilling off the solvent and recrystallizing from a little methanol, colorless crystals of melting point 180°-182° C. are obtained.

reactant | 5-allyl-4-hydroxy-3'-dimethylaminomethyleneaminosulfonyl-2,3,4'-trichlorobenzophenone | 31 mmol, 14.7 g | C(C=C)C=1C(=C(C(=C(C(=O)C2=CC(=C(C=C2)Cl)S(=O)(=O)N=CN(C)C)C1)Cl)Cl)O | C19H17Cl3N2O4S
reactant | metachloroperbenzoic acid | 43 mmol, 7.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | metachloroperbenzoic acid | 0.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 6,7-Dichloro-5-(4-chloro-3-dimethylaminomethyleneaminosulfonylbenzoyl)-2,3-dihydro-2-hydroxymethylbenzofuran | ClC1=C(C2=C(CC(O2)CO)C=C1C(C1=CC(=C(C=C1)Cl)S(=O)(=O)N=CN(C)C)=O)Cl | C19H17Cl3N2O5S
